US07872128B2
Step 5: methyl-6-chloro-3-(N-(4-ethylphenyl)-N′-hydroxycarbamimidoyl)-2-fluorobenzoate
4-Ethylaniline (923 μl, 7423 μmol) was added dropwise to a 0° C. chilled solution of methyl-6-chloro-3-(chloro(hydroxyimino)methyl)-2-fluorobenzoate (395 mg, 1485 μmol) in anhydrous THF (4.5 ml). The resultant mixture was stirred for one hour before the ice bath was removed and the mixture was allowed to warm to RT. After stirring for several hours at RT, LCMS analysis indicated the reaction was complete. The solvent was removed solvent in vacuo and the brown residue was diluted with brine and EtOAc. The layers were separated and the aqueous was extracted with EtOAc (3×). The combined organics were dried over MgSO4, filtered and concentrated to a brown oil which was purified by silica gel chromatography using 2:1 Hex/EtOAc to afford the desired product.

reactant | 4-Ethylaniline | 7423 μmol, 923 μl | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | methyl-6-chloro-3-(chloro(hydroxyimino)methyl)-2-fluorobenzoate | 1485 μmol, 395 mg | COC(C1=C(C(=CC=C1Cl)C(=NO)Cl)F)=O | C9H6Cl2FNO3
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
product | methyl-6-chloro-3-(N-(4-ethylphenyl)-N′-hydroxycarbamimidoyl)-2-fluorobenzoate | COC(C1=C(C(=CC=C1Cl)C(NC1=CC=C(C=C1)CC)=NO)F)=O | C17H16ClFN2O3
